US06054469
d) 4-Benzyl-3-methyl-1-(3-[5-(1,2,4-triazol-4-yl)-1H-indol-3-yl]propyl) -1.2,5,6-tetrahydropyridine Hydrogen Oxalate
A stirred suspension of 3-(5-[1,2,4-triazol-4-yl]-1H-indol-3-yl)propan-1-ol (0.45 g, 1.86 mmol) in anhydrous tetrahydrofuran (150 ml), under a nitrogen atmosphere, was treated with triethylamine (0.704 ml, 5 mmol) followed by methanesulphonyl chloride (0.35 ml, 4.5 mmol). The reaction mixture was stirred at ambient temperature for 45 minutes. The mixture was filtered then the solvent evaporated. The residue was dissolved in dichloromethane (50 ml) and washed with water (30 ml). The organic layer was dried (sodium sulphate), the solvent was evaporated then the crude mesylate was suspended in propan-2-ol (100 ml), treated with potassium carbonate (0.56 g, 4.1 mmol) and 4-benzyl-3-methyl-1.2.5.6-tetrahydropyridine free base (0.60 g, 3.2 mmol). The reaction mixture was stirred whilst heating at reflux for 18 hours. The solvent was evaporated and the residue partitioned between dichloromethane (50 ml) and water (30 ml). The organic layer was separated and the aqueous re-extracted with dichloromethane (50 ml). The combined organics were dried (sodium sulphate) then the solvent evaporated and the crude product purified by short (plug) column chromatography on silica using 5% methanol in dichloromethane. The title compound free base was obtained (0.40 g, 52%) as a gum. The hydrogen oxalate salt had mp>190° C. (dec.). (Found: C, 66.29: H, 6.41; N, 13.33. C26H29N5. C2H2O4. 0.45H2O) requires C, 65.98; H, 6.31: N, 13.74%). MS, ES+, m/z=412 for M+H)+ ; δH (360 MHz, DMSO-d6) 1.72 (3H, s), 2.01-2.22 (4H, m), 2.78 (2H, t, J=7 Hz), 3.00-3.24 (4H, m), 3.41 (2H, s), 3.57 (2H, s), 7.12-7.36 (7H, m), 7.50 (1H, d, J=8 Hz), 7.80 (H, d, J=2 Hz), 9.01 (2H, s), 11.19 (1H, s).

reactant | 3-(5-[1,2,4-triazol-4-yl]-1H-indol-3-yl)propan-1-ol | 1.86 mmol, 0.45 g | N=1N=CN(C1)C=1C=C2C(=CNC2=CC1)CCCO | C13H14N4O
reactant | triethylamine | 5 mmol, 0.704 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 4.5 mmol, 0.35 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium carbonate | 4.1 mmol, 0.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-benzyl-3-methyl-1.2.5.6-tetrahydropyridine | 3.2 mmol, 0.60 g | C(C1=CC=CC=C1)C1=C(CNCC1)C | C13H17N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 4-Benzyl-3-methyl-1-(3-[5-(1,2,4-triazol-4-yl)-1H-indol-3-yl]propyl) -1.2,5,6-tetrahydropyridine Hydrogen Oxalate | C(C(=O)O)(=O)O.C(C1=CC=CC=C1)C1=C(CN(CC1)CCCC1=CNC2=CC=C(C=C12)N1C=NN=C1)C | InChI=1S/C26H29N5.C2H2O4/c1-20-17-30(13-11-22(20)14-21-6-3-2-4-7-21)12-5-8-23-16-27-26-10-9-24(15-25(23)26)31-18-28-29-19-31;3-1(4)2(5)6/h2-4,6-7,9-10,15-16,18-19,27H,5,8,11-14,17H2,1H3;(H,3,4)(H,5,6)
